US06670379B2
(4-Fluoro-phenyl)-piperidin-4-yl-methanone (0.15 g, 0.73 mmol) is added to a solution of ((R)-2-Bromo-1-pyridin-3-ylmethyl-ethyl)-carbamic acid tert-butyl ester (0.21 g, 0.66 mmol) and 1,8 diazabicyclo[5.4.0]undec-7-ene (0.12 ml, 0.79 mmol) in dimethylformamide (3 ml). The reaction mixture is stirred at ambient temperature for 24 hours prior to partioning between ethylacetate and water. The ethylacetate is dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography (97:3 dichloromethane: methanol elution) to afford {(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-pyridin-3-ylmethyl-ethyl}-carbamic acid tert-butyl ester. 1H NMR (400 MHz, CDCl3) δ 1.36 (s, 9H), 1.68-1.85 (br m, 4H), 2.00-2.38 (br m, 4H), 2.78-2.91 (m, 4H), 3.05-3.19 (m 1H), 3.81-3.93 (m 1H) 7.05 (t J 8.8 2H), 7.12-7.18 (m 1H), 7.48 (d J 7.9 1H), 7.85-7.93 (dd J 8.8 5.4 2H), 8.36 (d J 1.5 1H), 8.40 (dd J 4.9 1.5 1H).

reactant | (4-Fluoro-phenyl)-piperidin-4-yl-methanone | 0.73 mmol, 0.15 g | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | ((R)-2-Bromo-1-pyridin-3-ylmethyl-ethyl)-carbamic acid tert-butyl ester | 0.66 mmol, 0.21 g | C(C)(C)(C)OC(N[C@@H](CBr)CC=1C=NC=CC1)=O | C13H19BrN2O2
reactant | 1,8 diazabicyclo[5.4.0]undec-7-ene | 0.79 mmol, 0.12 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | {(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-pyridin-3-ylmethyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)CC=1C=NC=CC1)=O | C25H32FN3O3
